US05885990
50 Milliliters of anhydrous pyridine and 20 ml of DMF were added to 5.0 g of 2-nitrobenzoic acid, 3.0 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 4.4 g of DCC and 218.2 mg of DMAP, followed by stirring for 2 hours under cooling with ice and 24 hours at room temperature. Then, the precipitate was filtered and washed with 100 ml of warm DMF. This wash liquid and the filtrate were combined, and the solvent was distilled off under reduced pressure. To the residue was added 20 ml of DMF, and the resulting solution was added dropwise to 600 ml of acetone, followed by stirring for 2 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using chloroformmethanol-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. To 1/2 of the residue were added 20 ml of methanol and 1.4 ml of concentrated hydrochloric acid to suspend the residue. The suspension was added dropwise to a mixed liquid of 200 ml of ether and 200 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 2.42 g of 6-amidino-1-carbamoylmethyl-2-naphthyl 2-nitrobenzoate.hydrochloride.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzoic acid | 5.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 3.0 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 218.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 2-nitrobenzoate.hydrochloride | 2.42 g | Cl.[N+](=O)([O-])C1=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=CC=C1 | InChI=1S/C20H16N4O5.ClH/c21-18(25)10-15-13-7-5-12(19(22)23)9-11(13)6-8-17(15)29-20(26)14-3-1-2-4-16(14)24(27)28;/h1-9H,10H2,(H2,21,25)(H3,22,23);1H
